US04549019
Preparation of methyl 2-amino-6-[3,6-dihydro-1(2H)-pyridyl]-4-pyrimidinecarbamate-3-oxide
24.8 g (70 mmol) of methyl 2-amino-6-[(p-toluenesulfonyl)oxy]-4-pyrimidinecarbamate-3-oxide and 14.5 g (175 mmol) of 1,2,5,6-tetrahydropyridine are boiled at reflux under argon in 400 ml of chloroform. After 90 minutes, the resulting precipitate is filtered off and the chloroform solution is washed with water. The organic phase is separated, dried over sodium sulfate and evaporated under reduced pressure, whereby there is obtained a crystalline solid. A sample of this material is recrystallized from methylene chloride/ether. The thus-obtained methyl 2-amino-6-[3,6-dihydro-1(2H)-pyridyl]-4-pyrimidinecarbamate-3-oxide melts at 221°-223° with decomposition.

reactant | methyl 2-amino-6-[(p-toluenesulfonyl)oxy]-4-pyrimidinecarbamate-3-oxide | 70 mmol, 24.8 g | NC1=NC(=CC(=[N+]1[O-])NC(=O)OC)OS(=O)(=O)C1=CC=C(C=C1)C | C13H14N4O6S
reactant | 1,2,5,6-tetrahydropyridine | 175 mmol, 14.5 g | N1CC=CCC1 | C5H9N
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-amino-6-[3,6-dihydro-1(2H)-pyridyl]-4-pyrimidinecarbamate-3-oxide | NC1=NC(=CC(=[N+]1[O-])NC(=O)OC)N1CCC=CC1 | C11H15N5O3
